US09278950B2
Step 8. 3-Amino-N-{4-[(3S)-3-aminopiperidin-1-yl]-2,3-dihydrofuro[2,3-b]pyridin-5-yl}-7-ethylquinoline-2-carboxamide
3-Amino-7-ethylquinoline-2-carboxylic acid (24.5 mg, 0.113 mmol), tert-butyl [(3S)-1-(5-amino-2,3-dihydrofuro[2,3-b]pyridin-4-yl)piperidin-3-yl]carbamate (38.3 mg, 0.114 mmol) and HATU (136.1 mg, 0.3579 mmol), DMF (2.00 mL) was added, followed by DIPEA (152.9 mg, 1.183 mmol). The reaction mixture was stirred at room temperature for 3 h and then concentrated under reduced pressure. To the resulting residue DCM (2.0 mL) was added followed by T (2.0 mL). The mixture was stirred at room temperature for 30 min. and then concentrated under reduced pressure. The resulting residue was purified using RP-HPLC (XBridge™ C18 column, eluting with a gradient of MeCN/water containing 0.1% NH4OH, at flow rate of 30 mL/min.) to afford the title compound as a yellow solid (5.7 mg, 12%). LCMS calc. for C24H29N6O2 (M+H)+: m/z=433.2. found 433.2. 1H NMR (500 MHz, DMSO-d6) δ 8.82 (s, 1H), 7.65-7.61 (m, 2H), 7.51 (s, 1H), 7.37 (dd, J=8.6, 1.5 Hz, 1H), 6.81 (s, 2H), 4.52 (t, J=8.6 Hz, 2H), 3.46-3.39 (m, 2H), 3.22-3.17 (m, 1H), 3.17-3.10 (m, 1H), 3.07-3.00 (m, 1H), 2.88-2.81 (m, 1H), 2.76 (q, J=7.5 Hz, 2H), 2.67-2.59 (m, 1H), 2.00-1.92 (m, 1H), 1.92-1.79 (m, 2H), 1.28 (t, J=7.5 Hz, 3H), 1.26-1.20 (m, 1H) ppm.

reactant | 3-Amino-7-ethylquinoline-2-carboxylic acid | 0.113 mmol, 24.5 mg | NC=1C(=NC2=CC(=CC=C2C1)CC)C(=O)O | C12H12N2O2
reactant | tert-butyl [(3S)-1-(5-amino-2,3-dihydrofuro[2,3-b]pyridin-4-yl)piperidin-3-yl]carbamate | 0.114 mmol, 38.3 mg | NC=1C(=C2C(=NC1)OCC2)N2C[C@H](CCC2)NC(OC(C)(C)C)=O | C17H26N4O3
reactant | HATU | 0.3579 mmol, 136.1 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 1.183 mmol, 152.9 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 2.00 mL | CN(C)C=O | C3H7NO
product | 3-Amino-N-{4-[(3S)-3-aminopiperidin-1-yl]-2,3-dihydrofuro[2,3-b]pyridin-5-yl}-7-ethylquinoline-2-carboxamide | 5.7 mg, 12% | NC=1C(=NC2=CC(=CC=C2C1)CC)C(=O)NC=1C(=C2C(=NC1)OCC2)N2C[C@H](CCC2)N | C24H28N6O2
